US05821239
4-[[(Dimethylamino)methylene]amino]-3-pyridinol N,N-diethylcarbamate
4-Amino-3-pyridinol N,N-diethylcarbamate (5.80 g) was refluxed for 30 minutes in 50 mL of N,N-dimethylformamide dimethyl acetal. At the end of this time the reaction mixture was concentrated under reduced pressure and the residue was purified by flash chromatography (5% Et3N/ethyl acetate) to give, after concentration of the product-containing fractions, 4.63 g of chromatographically pure product. An analytically pure material was obtained by recrystallization from Et2O, m.p. 67°-69° C.

reactant | 4-Amino-3-pyridinol N,N-diethylcarbamate | 5.80 g | C(C)N(C(=O)OC=1C=NC=CC1N)CC | C10H15N3O2
reactant | Et2O | CCOCC | C4H10O
solvent | N,N-dimethylformamide dimethyl acetal | 50 mL | COC(N(C)C)OC | C5H13NO2
product | 4-[[(Dimethylamino)methylene]amino]-3-pyridinol N,N-diethylcarbamate | C(C)N(C(=O)OC=1C=NC=CC1N=CN(C)C)CC | C13H20N4O2
